US07884210B2
{2-[3-Cyclohexylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid
The title compound was prepared via {2-[3-cyclohexylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester in a similar manner as described for the synthesis of {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid, using cyclohexylmethyl-(3,4-difluorophenyl)-amine and (2-amino-thiazol-5-ylsulfanyl)acetic acid ethyl ester

reactant | {2-[3-cyclohexylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)NC(=O)N(C1=CC(=C(C=C1)F)F)CC1CCCCC1)=O | C21H25F2N3O3S2
reactant | {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid | C1(CCCC1)CN(C(NC=1SC=C(N1)CC(=O)O)=O)C1=CC=C(C=C1)S(=O)(=O)C | C19H23N3O5S2
reactant | cyclohexylmethyl-(3,4-difluorophenyl)-amine | C1(CCCCC1)CNC1=CC(=C(C=C1)F)F | C13H17F2N
reactant | (2-amino-thiazol-5-ylsulfanyl)acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)N)=O | C7H10N2O2S2
product | {2-[3-Cyclohexylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C1(CCCCC1)CN(C(NC=1SC(=CN1)SCC(=O)O)=O)C1=CC(=C(C=C1)F)F | C19H21F2N3O3S2
